US06005000
5-[(1,1'-Biphenyl)-4-yl]-3,4-dihydroxy-5-propyl-2(5H)-furanone
Hydrogenolysis of 250 mg of 5-[(1,1'-biphenyl)-4-yl]-4-hydroxy-3-phenylmethoxy-5-propyl-2(5H)-furanone was performed in a similar manner as described in the preparation of 3,4-dihydroxy-5-methyl-5-phenyl-2(5H)-furanone to provided 100 mg (52% yield) of a white powder: mp 203-204° C. dec. (acetone/CHCl3 /hexanes). 1H NMR (acetone-d6) δ 7.65-7.40 (m, 9H), 2.25-1.95 (m, 2H), 1.45-1.10 (m, 2H), 0.95 (t, J=6.9 Hz, 3H). Anal Calcd for C19H18O4 +0.125 H2O: C, 73.01; H, 5.88. Found: C, 72.99; H, 5.86.

reactant | 5-[(1,1'-biphenyl)-4-yl]-4-hydroxy-3-phenylmethoxy-5-propyl-2(5H)-furanone | 250 mg | C1(=CC=C(C=C1)C1(C(=C(C(O1)=O)OCC1=CC=CC=C1)O)CCC)C1=CC=CC=C1 | C26H24O4
reactant | 3,4-dihydroxy-5-methyl-5-phenyl-2(5H)-furanone | OC=1C(OC(C1O)(C1=CC=CC=C1)C)=O | C11H10O4
product | 5-[(1,1'-Biphenyl)-4-yl]-3,4-dihydroxy-5-propyl-2(5H)-furanone | 100 mg, 52% yield | C1(=CC=C(C=C1)C1(C(=C(C(O1)=O)O)O)CCC)C1=CC=CC=C1 | C19H18O4
